US06361978B1
The enzyme reaction mixture without cell-free extracts contained 100 μM desthiobiotin. 1000 μM SAM, 200 μM L-cysteine, 50 μM deazariboflavin, 0.6 mg/ml (16 μM) BIOB protein, 10 mM DTT and 0.1 M Tris-HCl/pH 7.5 in total volume of 50 μl. The enzyme reaction mixture in a 300 μl glass spitz tube was brought to anaerobic condition by repeating of weak aspiration and argon pressure under dark. The reaction was started by light irradiation from 10 cm distance with 20 W fluorescent bulb at 30° C. After 80 min reaction, reaction was stopped by heating at 95° C., and produced biotin was determined by the microbiological assay 1 ) using Lactobacillis plantarum. (ATCC8014)

reactant | desthiobiotin | 100 μM | CC1C(NC(=O)N1)CCCCCC(=O)O | C10H18N2O3
reactant | L-cysteine | 200 μM | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | DTT | 10 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | Tris-HCl | 0.1 M, pH 7.5 | C(C(CO)(CO)N)O.Cl
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
